US07138533B2
6-(5-Chloropentanoyl)-2H-1,4-benzoxazin-3(4H)-one
Using 2H-1,4-benzoxazin-3(4H)-one (10.0 g) and 5-chlorovaleryl chloride (12.5 g) according to the same method as that of Reference Example 1, the title compound (12.0 g) was obtained as colorless crystals.

reactant | 2H-1,4-benzoxazin-3(4H)-one | 10.0 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | 5-chlorovaleryl chloride | 12.5 g | ClCCCCC(=O)Cl | C5H8Cl2O
product | 6-(5-Chloropentanoyl)-2H-1,4-benzoxazin-3(4H)-one | 12.0 g | ClCCCCC(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C13H14ClNO3
